US06548511B1
Sodium hydride (60% in oil, 468 mg, 17.6 mmol) was added to DMF (30 ml) solution of 2,5-bis(trifluoromethyl)aniline (3.8 g, 16.4 mmol), followed by stirring at room temperature for 30 minutes. Then, 3-methyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone (3.0 g, 11.7 mmol) was added, followed by stirring for additional 4 hours. After completion of the reaction, the reaction solution was diluted with ether (20 ml), excess sodium hydride was neutralized with saturated ammonium chloride aqueous solution and then the aqueous layer was separated. After extraction of the aqueous layer with ether (20 ml×2), the organic layers were combined, washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=20:1˜8:1) to obtain light yellow crystals of 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-methyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 46].

reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 2,5-bis(trifluoromethyl)aniline | 16.4 mmol, 3.8 g | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | 3-methyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone | 11.7 mmol, 3.0 g | CN1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C | C7H7F3N2O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | sodium hydride | [H-].[Na+]
solvent | Sodium hydride | 17.6 mmol, 468 mg | [H-].[Na+]
product | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-methyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 25% | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=CC(N1C)=O)C(F)(F)F)(F)F | C14H8F9N3O
